US05684020
4-(2,3-Dihydrobenzofuran-5-yl)-1-(indan-2-ylmethyl)piperazine
Prepared as described in Example 9, starting from 4-(2,3-dihydrobenzofuran-5-yl)-piperazine. The fumarate of the title compound melts at 180°-182° C. (ethanol).

reactant | 4-(2,3-dihydrobenzofuran-5-yl)-piperazine | O1CCC2=C1C=CC(=C2)N2CCNCC2 | C12H16N2O
reactant | fumarate | C(\C=C\C(=O)[O-])(=O)[O-]
product | 4-(2,3-Dihydrobenzofuran-5-yl)-1-(indan-2-ylmethyl)piperazine | O1CCC2=C1C=CC(=C2)N2CCN(CC2)CC2CC1=CC=CC=C1C2 | C22H26N2O
